US05292739
Preparation of 4-chloro-1-[4-(4-phenyl-1-piperazinyl)-butyl]-1H-pyrazol
A mixture of 3.56 g (15 mmol) of N-(4-bromo-butyl)-4-chloropyrazole, 2.43 g (15 mmol) of 1-phenyl-piperazine and 2.76 g (20 mmol) of potassium carbonate in 50 ml of dimethylformamide is refluxed for 24 hours. The reaction mixture is evaporated under vacuum, chloroform is added, the mixture is washed with water, dried over sodium sulphate and evaporated under vacuum and 3.1 g of 4-chloro-1-[4-(4-phenyl-1-piperazinyl)-butyl]-1H-pyrazole are obtained, which may be recrystallised from ethyl ether with a melting point of 58°-61° C.

reactant | N-(4-bromo-butyl)-4-chloropyrazole | 15 mmol, 3.56 g | BrCCCCN1N=CC(=C1)Cl | C7H10BrClN2
reactant | 1-phenyl-piperazine | 15 mmol, 2.43 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-chloro-1-[4-(4-phenyl-1-piperazinyl)-butyl]-1H-pyrazol | ClC=1C=NN(C1)CCCCN1CCN(CC1)C1=CC=CC=C1 | C17H23ClN4
